datasets/10k_Mayr_OG.csv
SMILES Labelled
C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[H:10].[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>C[N+:14](C)=[C:13]1[CH:12]=[CH:11][N:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1=C[C:61]2=[C:62](C=C1)[N:72]=[CH:71][N-:10]2.CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[N:10]1[C:61]2=[C:62](C=CC=C2)[N:72]=[CH:71]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.[H][N:10]=[C:11](C(F)(F)F)[O-:12]>>[H][N:10]([C:11](C(F)(F)F)=[O:12])[C:20]1([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20;12=11,12"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CC1C(C)[O:62][CH:11]([H:10])[O:12]1>>C1C[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.CC1C(C)[O:62][CH:11]=[O+:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.CC[O:61]/[C:11](=[C:10](/[C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)[O-:12]>>CC[O:61][C:11]([C:10]([CH:20](C1=CC=CC=C1)[CH-:21][S:32](C1=CC=C(C)C=C1)(=[O:33])=[O:34])([C:72](=[O:73])[O:83]CC)[C:91]1=[CH:92][CH:93]=[C:94]([O:95]C)[CH:103]=[CH:102]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.CC[O:62]/[C:11](=[C:10](\F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12]>>CC(C)(C1=C(I)C=CC=C1)[O-:21].CC[O:62][C:11]([C:10](F)([S:20]C(F)(F)F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1>>C[C:20]1([N+:10]2=[C:61](C)[NH:62][C:63](C)=[CH:64]2)CCC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.C[C:11]1=[N:10][CH:61]=[CH:62][NH:12]1>>C[C:11]1=[NH+:12][CH:62]=[CH:61][N:10]1[C:20]1(C2=CC=CC=C2)[S:31]CC[S:41]1 10,11=10,20;12=11,12"
"C1=CC=C([C:10]#[C:11][N:12]2CCC[C:63]2=[O:64])C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10](C2=CC=CC=C2)=[C:11]=[N+:12]2CCC[C:63]2=[O:64])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[NH:10][NH:61]C>>C[NH+:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1)[NH:61]C 10=20
"C[S:11](C)=[CH:10][C:61](C1=CC=CC=C1)=[O:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[S+:11](C)[CH:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[C:61](C1=CC=CC=C1)=[O:62] 10,11=10,20"
